US05756857
20.0 g (0.12 mol) of (1R, 2S, 5R)-2-(2-hydroxy-1-methylethyl)-5-methylcyclohexanol was dissolved in 100 ml of dimethylformamide, and 3.3 g (0.14 mol) of sodium hydride was added to the solution. The mixture was agitated for 30 min, and 21.8 g (0.14 mol) of ethyl iodide was dropped thereinto and continued to agitate at room temperature for 24 hr. After the completion of the reaction, 300 ml of water was added to the reaction fluid and agitated. The reaction product was extracted with ether. The resultant ether phase was dried over anhydrous magnesium sulfate, and the solvent was distilled off, thereby obtaining 20.1 g (yield: 86.4%) of (1R, 2S, 5R)-2-(2-ethoxy-1-methyl-ethyl)-5-methylcyclohexanol in the form of a colorless liquid. The mass spectrometry and NMR data of the obtained compound are as follows:

reactant | (1R, 2S, 5R)-2-(2-hydroxy-1-methylethyl)-5-methylcyclohexanol | 0.12 mol, 20.0 g | OCC(C)[C@H]1[C@@H](C[C@@H](CC1)C)O | C10H20O2
reactant | sodium hydride | 0.14 mol, 3.3 g | [H-].[Na+]
reactant | ethyl iodide | 0.14 mol, 21.8 g | C(C)I | C2H5I
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (1R, 2S, 5R)-2-(2-ethoxy-1-methyl-ethyl)-5-methylcyclohexanol | 20.1 g, yield: 86.4% | C(C)OCC(C)[C@H]1[C@@H](C[C@@H](CC1)C)O | C12H24O2
